US04492708
1-isopropyl-2-amino-6-(1-phenyl-2-bromoethenyl)benzimidazole
Three hundred milligrams (1.08 mmoles) of 1-isopropyl-2-amino-6-(1-phenylethenyl)benzimidazole and 192 mg. (1.08 mmoles) of N-bromosuccinimide were refluxed overnight in 20 ml. of dry tetrahydrofuran. After cooling, ethyl acetate was added and the solution was washed with a saturated solution of sodium bicarbonate. The organic layer was dried over magnesium sulfate, filtered, and evaporated in vacuo. The residue was chromatographed over silica gel, first eluting with ethyl acetate to remove impurities, and then with 10% methanol/90% ethyl acetate. The title product was crystallized from ether giving 200 mg. of the cis/trans mixture, M+ =357.

reactant | 1-isopropyl-2-amino-6-(1-phenylethenyl)benzimidazole | 1.08 mmoles, Three hundred milligrams | C(C)(C)N1C(=NC2=C1C=C(C=C2)C(=C)C2=CC=CC=C2)N | C18H19N3
reactant | N-bromosuccinimide | 1.08 mmoles | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-isopropyl-2-amino-6-(1-phenyl-2-bromoethenyl)benzimidazole | C(C)(C)N1C(=NC2=C1C=C(C=C2)C(=CBr)C2=CC=CC=C2)N | C18H18BrN3
